US05216167
(c) Ethyl 2-allyloxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}aminocarbonylmethyl]-benzoate
Prepared from ethyl 2-hydroxy-4-[N-{1-(2-piperidinophenyl) -1-butyl}-aminocarbonylmethyl]-benzoate, using allyl bromide.

reactant | ethyl 2-hydroxy-4-[N-{1-(2-piperidinophenyl) -1-butyl}-aminocarbonylmethyl]-benzoate | OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C26H34N2O4
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | Ethyl 2-allyloxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}aminocarbonylmethyl]-benzoate | C(C=C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C29H38N2O4
